US05047557
Preparation of (1S,2S)-2-methyl-1-phenyl-3-buten-1-ol
0.4 g (0.64 mmol) of the titanium compound prepared as in Example 4 are dissolved in 40 ml of diethyl ether, the solution is cooled to -74° C., 0.065 ml (0.65 mmol) of benzaldehyde are added and the mixture is stirred for 2 hours at -74° C. The reaction solution is then solution is then hydrolysed with 20 ml of aqueous ammonium fluoride solution, stirred overnight at RT, filtered through Hyflo and extracted with 3×40 ml of diethyl ether and the extract is washed with saturated NaCl solution, dried over Na2SO4 and evaporated.

reactant | benzaldehyde | 0.65 mmol, 0.065 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium fluoride | 20 ml | [F-].[NH4+]
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
catalyst | titanium | 0.64 mmol, 0.4 g | [Ti] | Ti
product | (1S,2S)-2-methyl-1-phenyl-3-buten-1-ol | C[C@H]([C@H](O)C1=CC=CC=C1)C=C | C11H14O
